US09212182B2
A RBF was charged with (1,5-cyclooctadiene)(methoxy)-iridium(i) dimer (0.049 g, 0.075 mmol), 4,4′-di-tert-butyl-2,2′-dipyridyl (0.040 g, 0.149 mmol), and bis(pinacolato)diboron (1.339 g, 5.27 mmol). The flask was flushed with Ar (g), then hexane (15.30 ml) was added. A reflux condenser was attached to the flask, and the flask was heated to 50° C. for 10 minutes. 2-bromo-4-methoxy-1-methylbenzene (2.0 g, 9.95 mmol) was added and the reaction was stirred overnight at 50° C. The reaction was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (RediSep Gold 80 g, gradient elution 0-50% EtOAc:Heptane) to afford 2-(4-bromo-2-methoxy-5-methylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.694 g, 2.122 mmol, 21.33% yield) as an off-white oily solid. m/z (ESI) 329.1 (M+H)+.

reactant | bis(pinacolato)diboron | 5.27 mmol, 1.339 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 2-bromo-4-methoxy-1-methylbenzene | 9.95 mmol, 2.0 g | BrC1=C(C=CC(=C1)OC)C | C8H9BrO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | (1,5-cyclooctadiene)(methoxy)-iridium(i) dimer | 0.075 mmol, 0.049 g | C[OH2+].C[OH2+].C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ir].[Ir]
product | 2-(4-bromo-2-methoxy-5-methylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.122 mmol, 0.694 g, 21.33% yield | BrC1=CC(=C(C=C1C)B1OC(C(O1)(C)C)(C)C)OC | C14H20BBrO3
